US05229379
15.0 g of n-butylphosphonic acid ethyl ester and 5.3 g of acrylonitrile are dissolved under argon in 25 ml of ethanol. The solution is cooled to 10°, and a solution of 1.15 g of sodium in 50 ml of ethanol is added dropwise, whereupon an exothermic reaction takes place. The mixture is then heated under reflux for one hour and cooled to room temperature, and 3.3 g of glacial acetic acid are added. The solvent is removed and the residue is taken up in dichloromethane. The resulting solution is washed with water, dried over sodium sulfate and concentrated by evaporation. The oil that remains is distilled, yielding 2-cyanoethyl(n-butyl)phosphinic acid ethyl ester having a boiling point of 120° (10-1 bar).

reactant | n-butylphosphonic acid ethyl ester | 15.0 g | C(C)OP(O)(=O)CCCC | C6H15O3P
reactant | acrylonitrile | 5.3 g | C(C=C)#N | C3H3N
reactant | sodium | 1.15 g | [Na] | Na
reactant | acetic acid | 3.3 g | C(C)(=O)O | C2H4O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-cyanoethyl(n-butyl)phosphinic acid ethyl ester | C(C)OP(=O)(CCCC)CCC#N | C9H18NO2P
